US06784167B2
To a solution of 2-(4-fluorophenylthio)thiophene (1.09 g, 5.18 mmol) in acetic acid (14.3 mL) was added a 30% aqueous solution of H2O2 (1.30 mL). The reaction mixture was heated at 100° C. for 45 min, then was treated with water. The resulting suspension was extracted with CH2Cl2. The combined organic layers were washed with a saturated NaHCO3 solution, dried (MgSO4) and concentrated under reduced pressure to yield 2-[(4-fluorophenyl)sulfonyl]thiophene (0.79 g, 63%) as a white solid: TLC (hex) Rf 0.08; 1H NMR (CDCl3) δ 7.09-7.27 (m, 3H), 7.67-7.71 (m, 2H), 7.99-8.04 (m, 2H).

reactant | 2-(4-fluorophenylthio)thiophene | 5.18 mmol, 1.09 g | FC1=CC=C(C=C1)SC=1SC=CC1 | C10H7FS2
reactant | H2O2 | 1.30 mL | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 14.3 mL | C(C)(=O)O | C2H4O2
product | 2-[(4-fluorophenyl)sulfonyl]thiophene | 0.79 g, 63% | FC1=CC=C(C=C1)S(=O)(=O)C=1SC=CC1 | C10H7FO2S2
